US06372746B1
To a solution of 0.83 g (5.15 mmol) of indol-2-carboxylic acid in 15 mL of dry THF 0.83 g (5.15 mmol) of N,N′-carbonyldiimidazol is added. After 30 minutes 1.0 g (5.15 mmol) of 4 methoxy-2-(1-piperazinyl) pyrimidine is added to the solution and it is left overnight with continuous stirring. The solvent is eliminated under reduced pressure and H2O added. This produces a precipitate which is filtered and dried, to give 1.7 g (5.04 mmol) of 2-[4-(2-indolylcarbonyl)-1-piperazinyl]-4-methoxypyrimidine. m.p.=202-203° C.

reactant | indol-2-carboxylic acid | 5.15 mmol, 0.83 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | THF | 5.15 mmol, 15 mL, 0.83 g | C1CCOC1 | C4H8O
reactant | methoxy-2-(1-piperazinyl) pyrimidine | COC1=NC(=NC=C1)N1CCNCC1 | C9H14N4O
solvent | H2O | O | H2O
product | 2-[4-(2-indolylcarbonyl)-1-piperazinyl]-4-methoxypyrimidine | 5.04 mmol, 1.7 g | N1C(=CC2=CC=CC=C12)C(=O)N1CCN(CC1)C1=NC=CC(=N1)OC | C18H19N5O2
